US08053588B2
Firstly, dist. ether (5 mL) was added to tris(4-triethoxysilylphenyl)amine (242 mg, 0.33 mmol) under a nitrogen atmosphere. Then, 1-M allylmagnesium bromide (4 mL (solvent: ether), 4 mmoL) was added dropwise at 0° C. The resultant mixture was stirred under a nitrogen atmosphere at room temperature for 20 hours to obtain a mixture. Subsequently, the mixture was added with an aqueous solution of HCl of 10% by mass to cease the reaction, and the pH of an aqueous layer was adjusted to 4 by using an aqueous solution of HCl of 10% by mass. After that, an organic layer was separated, and the aqueous layer was extracted with ether. The organic layer thus collected was washed with sat. NaHCO3 and sat. NaCl, and was dried with MgSO4. The dried organic layer was then filtered and concentrated to obtain a crude product. Subsequently, the crude product was separated and purified by PTLC (hexane/EtOAc=10/1) to obtain tris(4-diallylethoxysilylphenyl)amine (80 mg, 34% yield).

reactant | tris(4-triethoxysilylphenyl)amine | 0.33 mmol, 242 mg | C(C)O[Si](C1=CC=C(C=C1)N(C1=CC=C(C=C1)[Si](OCC)(OCC)OCC)C1=CC=C(C=C1)[Si](OCC)(OCC)OCC)(OCC)OCC | C36H57NO9Si3
reactant | allylmagnesium bromide | 4 mL | C(C=C)[Mg]Br
reactant | HCl | Cl | ClH
solvent | ether | 5 mL | CCOCC | C4H10O
product | tris(4-diallylethoxysilylphenyl)amine | 80 mg, 34% yield | C(C=C)C(CO[SiH2]C1=CC=C(C=C1)N(C1=CC=C(C=C1)[SiH2]OCC(CC=C)CC=C)C1=CC=C(C=C1)[SiH2]OCC(CC=C)CC=C)CC=C | C42H57NO3Si3
